US06727264B1
N-(3-{1-[3-(2,3-DIHYDRO-1H-INDEN-5-YL)-3-(4-FLUOROPHENOXY)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure A and Scheme AN using N-(3-{1-[3-(2,3-dihydro-1H-inden-5-yl)-3-hydroxypropyl]-4-piperidinyl}phenyl)-2-methylpropanamide and 4-fluorophenol: ESMS m/e: 515.2 (M+H)+.

reactant | N-(3-{1-[3-(2,3-dihydro-1H-inden-5-yl)-3-hydroxypropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | C1CCC2=CC(=CC=C12)C(CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)O | C27H36N2O2
reactant | 4-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
product | N-(3-{1-[3-(2,3-DIHYDRO-1H-INDEN-5-YL)-3-(4-FLUOROPHENOXY)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | C1CCC2=CC(=CC=C12)C(CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)OC1=CC=C(C=C1)F | C33H39FN2O2
